US05852014
N-[(1-(3-Phenoxypropyl)-4-piperidinyl)methyl] 3,4-dihydro-2 H-[1,3]oxazino[3,2-a]indole-10-Carboxamide
A stirred solution of N-(4-piperidinylmethyl) 3,4-dihydro-2 H-[1,3]oxazino[3,2-a]indole-10-carboxamide (E21) (250 mg, 0.80 mmole) and triethylamine (0.25 ml, 1.8 mmole) in a mixture of acetonitrile (15 ml) and N,N-dimethylformamide (10 ml) was treated with 3-phenoxypropyl bromide (0.13 ml, 0.88 mmole) and the solution heated under reflux for 48 h. The mixture was allowed to cool, then concentrated in vacuo and the residue dissolved in ethyl acetate (25 ml) and washed with water (20 ml). The organic solution was dried (MgSO4), concentrated in vacuo and the residue purified by flash chromatography on silica gel eluting with 0-20% methanol/ethyl acetate to afford the title compound as a pale pink solid after trituation with ether (44 mg) mp 120°-126° C.

reactant | N-(4-piperidinylmethyl) 3,4-dihydro-2 H-[1,3]oxazino[3,2-a]indole-10-carboxamide | 0.80 mmole, 250 mg | N1CCC(CC1)CNC(=O)C1=C2N(C=3C=CC=CC13)CCCO2 | C18H23N3O2
reactant | triethylamine | 1.8 mmole, 0.25 ml | C(C)N(CC)CC | C6H15N
reactant | 3-phenoxypropyl bromide | 0.88 mmole, 0.13 ml | O(C1=CC=CC=C1)CCCBr | C9H11BrO
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-[(1-(3-Phenoxypropyl)-4-piperidinyl)methyl] 3,4-dihydro-2 H-[1,3]oxazino[3,2-a]indole-10-Carboxamide | O(C1=CC=CC=C1)CCCN1CCC(CC1)CNC(=O)C1=C2N(C=3C=CC=CC13)CCCO2 | C27H33N3O3
